US04563463
3-Acetyl-2-oxo-3H-oxazolo[4,5-h]quinoline
A suspension of 2-oxo-3H-oxazolo[4,5-h]quinoline (1.86 g, 10.0 mmol), acetic anhydride (50 ml) and sulfuric acid (0.5 ml) was refluxed overnight. The reaction was filtered and the filtrate concentrated. Methylene chloride was added and the resulting solution was washed (3×) with water, brine; dried over MgSO4 and concentrated to a solid. The solid was crystallized from ethanol to give 1.82 g (80% yield) of product. M.P. 192°-193° C.

reactant | 2-oxo-3H-oxazolo[4,5-h]quinoline | 10.0 mmol, 1.86 g | O=C1OC2=C(C=CC=3C=CC=NC23)N1 | C10H6N2O2
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Acetyl-2-oxo-3H-oxazolo[4,5-h]quinoline | 1.82 g, 80% yield | C(C)(=O)N1C(OC2=C1C=CC=1C=CC=NC21)=O | C12H8N2O3
